US05756793
2-Hydroxy-4,6-didodecyloxybenzophenone
A mixture of 4.5 g (20 mmol) of 2,4,6-trihydroxybenzophenone, 9.8 g (40 mmol) of 1-bromododecane, 2.7 g (20 mmol) of potassium carbonate and 30 mg (0.2 mmol) of potassium iodide in 50 ml of toluene and 20 ml of N,N-dimethylacetamide is stirred at 110° C. for 7 h. The reaction mixture is cooled and then neutralized with 10% HCI. The organic solution is washed with water and then with saturated sodium chloride solution. The residue which remains after drying over MgSO4, filtering and concentrating by evaporation is purified by chromatography over silica gel (toluene/hexane 3:2). The product is recrystallized from isopropyl alcohol. 4.1 g of the compound are obtained as pale yellow crystals having a melting point of 37°-38° C.

reactant | 2,4,6-trihydroxybenzophenone | 20 mmol, 4.5 g | OC1=C(C(=O)C2=CC=CC=C2)C(=CC(=C1)O)O | C13H10O4
reactant | 1-bromododecane | 40 mmol, 9.8 g | BrCCCCCCCCCCCC | C12H25Br
reactant | potassium carbonate | 20 mmol, 2.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylacetamide | 20 ml | CN(C(C)=O)C | C4H9NO
catalyst | potassium iodide | 0.2 mmol, 30 mg | [I-].[K+]
product | 2-Hydroxy-4,6-didodecyloxybenzophenone | 4.1 g | OC1=C(C(=O)C2=CC=CC=C2)C(=CC(=C1)OCCCCCCCCCCCC)OCCCCCCCCCCCC | C37H58O4
